Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
ERCP w/ sphincterotomy and plastic stent placement and CBD 
brushings (sent for cytology) on ___.
attach
 
Pertinent Results:
Admission labs:
================

___ 03:30AM BLOOD WBC-7.0 RBC-4.17 Hgb-12.6 Hct-38.7 MCV-93 
MCH-30.2 MCHC-32.6 RDW-14.3 RDWSD-48.4* Plt ___
___ 03:30AM BLOOD Neuts-54.3 ___ Monos-12.6 Eos-3.9 
Baso-1.4* Im ___ AbsNeut-3.80 AbsLymp-1.94 AbsMono-0.88* 
AbsEos-0.27 AbsBaso-0.10*
___ 03:30AM BLOOD ___ PTT-36.4 ___
___ 03:30AM BLOOD Glucose-92 UreaN-18 Creat-0.6 Na-139 
K-4.6 Cl-105 HCO3-22 AnGap-12
___ 03:30AM BLOOD Albumin-4.1
___ 03:30AM BLOOD ALT-371* AST-121* AlkPhos-276* 
TotBili-5.1* DirBili-3.9* IndBili-1.2
___ 03:30AM BLOOD Lipase-1453*
___ 03:38AM BLOOD Lactate-0.7
.
.
Notable labs:
==============

___ 03:30AM BLOOD ALT-371* AST-121* AlkPhos-276* 
TotBili-5.1* DirBili-3.9* IndBili-1.2
___ 07:35AM BLOOD ALT-353* AST-130* AlkPhos-267* 
TotBili-5.8*
___ 04:55AM BLOOD ALT-241* AST-85* AlkPhos-220* 
TotBili-3.3*

___ 03:30AM BLOOD Lipase-1453*
___ 05:15AM BLOOD Lipase-963*
.
.
Discharge labs:
===============

___ 04:55AM BLOOD WBC-6.7 RBC-3.57* Hgb-11.0* Hct-33.1* 
MCV-93 MCH-30.8 MCHC-33.2 RDW-14.6 RDWSD-49.9* Plt ___
___ 04:55AM BLOOD Glucose-76 UreaN-16 Creat-0.6 Na-146 
K-4.4 Cl-109* HCO3-25 AnGap-12
___ 04:55AM BLOOD Albumin-3.3* Calcium-8.8 Phos-3.4 Mg-1.7
___ 04:55AM BLOOD ALT-241* AST-85* AlkPhos-220* 
TotBili-3.3*
.
.
Micro:
======
-___ UCx: no significant growth (<10,000 CFUs/ml)
-___ BCx: no growth to date
-___ BCx: no growth to date
-___ Stool Cx:
   FECAL CULTURE: Pending
   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 
   OVA + PARASITES: Pending 
   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___:  No E. 
coli O157:H7 found. 
   Cryptosporidium/Giardia (___): Pending
-___ Stool C. diff PCR: positive
-___ Stool C. diff Toxin: **PENDING**
.
.
Imaging:
========
___ MRCP:
IMPRESSION:
1. 3.7 cm hypoenhancing pancreatic head mass with dilated
pancreatic and biliary ducts with abrupt transitions at the
pancreatic mass ("double duct sign").  Findings are highly
suspicious for pancreatic ductal adenocarcinoma.
2. No evidence of involvement of the celiac trunk, SMA, or SMV.
3. Small celiac lymph node; otherwise, no evidence of metastatic
disease in the visualized abdomen.
4. Mild periductal hyperenhancement in the liver likely 
secondary
to biliary obstruction.
5. Cholelithiasis.  Mild gallbladder wall edema likely related 
to
biliary obstruction.

=====================================================
___ CT abd/pelvis w/ contrast (PANCREAS PROTOCOL)
COMPARISON:  MRCP ___
 
FINDINGS: 
 VASCULAR:
PANCREATIC CANCER STAGING:
 
Morphologic Evaluation
Appearance (in the pancreatic parenchymal phase): 
hypoattenuating
Size (maximal axial dimension in cm): 1.8 x 1.9 x 2.9 cm 
(although likely
larger, better demonstrated on recent MRI.)
Location (head right of SMV, body left of SMV): head/uncinate
Pancreatic duct narrowing/abrupt cutoff with or without upstream 
dilatation:
present
Biliary tree abrupt cutoff with or without upstream dilatation: 
Biliary stent
in place with trace mild intrahepatic biliary dilatation.
 
Arterial evaluation
 
SMA involvement: absent
 
Celiac Axis involvement: absent
 
Common hepatic artery involvement: absent
 
Variant anatomy: Accessory left hepatic artery arising from the 
left gastric
artery (03:21).
Variant vessel contact:  absent
 
Venous evaluation
 
MPV involvement: absent
 
SMV involvement: absent
 
Extrapancreatic evaluation
Liver lesions: absent
Peritoneal or omental nodules: absent
Ascites: absent
Suspicious lymph nodes: absent
Other extrapancreatic disease (invasion of adjacent structures): 
absent
 
 
There is no abdominal aortic aneurysm.  There is mild calcium 
burden in the
abdominal aorta and great abdominal arteries.
 
LOWER CHEST: There is mild eventration of the posterior left 
hemidiaphragm.
There is a few 2-3 mm left lower lung pulmonary nodules, some of 
which are
partially imaged, likely in the inferior aspect of the left 
upper lobe
(3:1,4).  There is no evidence of pleural or pericardial 
effusion.
 
ABDOMEN:
 
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout. 
There is a small 1.1 cm segment III hepatic cyst as seen on 
prior MRI (03:35).
Otherwise, there is no evidence of focal lesions.
 
There is pneumobilia as expected post ERCP sphincterotomy. The 
common bile
duct stent is in place. Compared to recent MRI, there is 
improved to near
resolution of prior severe biliary dilatation. The gallbladder 
demonstrates
marked wall edema. There is focal adenomyomatosis of the 
gallbladder neck
(03:43). Gallstones seen on recent MRCP are not well visualized 
on current
study.
 
PANCREAS: There is a 1.8 x 1.9 x 2.9 cm hypoenhancing mass in 
the pancreatic
head with resultant diffuse pancreatic ductal dilatation 
measuring up to 5 mm.
There is no peripancreatic stranding.
 
SPLEEN: The spleen shows normal size and attenuation throughout, 
without
evidence of focal lesions.
 
ADRENALS: The right and left adrenal glands are normal in size 
and shape.
 
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.
There are stable small bilateral renal cysts. Pelvis, there is 
no evidence of
solid renal lesions or hydronephrosis.  There is no perinephric 
abnormality.
 
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate
normal caliber, wall thickness, and enhancement throughout. 
Colonic
diverticulosis without evidence of acute diverticulitis. The 
appendix is
normal.
 
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is
trace pelvic free fluid (3:109)
 
REPRODUCTIVE ORGANS: The uterus is unremarkable.  Bilateral 
adnexa are
unremarkable.
 
LYMPH NODES: There is borderline enlarged porta hepatis lymph 
node measuring
up to 1 cm (03:28). There is no retroperitoneal or mesenteric 
lymphadenopathy.
There is no pelvic or inguinal lymphadenopathy.
 
VASCULAR: The pancreatic head mass is not demonstrate any 
evidence of vascular
involvement. The celiac axis, SMA and portal vasculature are 
patent. There is
no abdominal aortic aneurysm.  Moderate atherosclerotic disease 
is noted.
 
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.
 
SOFT TISSUES: There is a small fat and fluid containing left 
inguinal hernia. 
Otherwise, the abdominal and pelvic wall is within normal 
limits.
 
IMPRESSION: 
1. 1.9 x 2.9 cm hypoenhancing pancreatic head mass concerning 
for pancreatic malignancy. Resultant diffuse pancreatic ductal 
dilatation. No evidence of malignant vascular involvement. 
Incidental note made of accessory left hepatic artery arising 
from the left gastric artery.
2. No definite evidence of distant abdominopelvic metastasis.
3. 2-3 mm left lower lung pulmonary nodules may represent 
metastasis in the setting of a pancreatic mass.  CT chest is 
recommended.
4. Interval placement of biliary stent with improved biliary 
dilatation.
5. Diffuse gallbladder wall edema as seen on prior recent MRI. 
Cholelithiasis seen on recent MRI not well visualized on current 
study.
 
RECOMMENDATION(S):  CT chest.

***CT Chest is scheduled for ___
=====================================================
 
Brief Hospital Course:
# Pancreatic head mass w/ obstruction
# Painless jaundice w/ transaminitis
Presented w/ painless jaundice. MRCP imaging showed mass in head 
of pancreas. Underwent ERCP/EUS w/ sphincterotomy and successful 
stenting of CBD. Unable to safely biopsy the mass using EUS, so 
brushings of the stricture were sent for cytology. Following 
ERCP w/ sphincterotomy on ___ she was maintained NPO on IVF and 
the next morning she was having no GI symptoms, so her diet was 
advanced and she was tolerating a regular diet. Notably, her 
TBili and transaminases were significantly improved on ___. CA 
___ level was sent off per Pancreas team recommendations, it is 
pending at the time of discharge. She had a CT abdomen/pelvis 
pancreas protocol done on ___. She will need a CT of the chest 
to follow up on the results of the CT abdomen/pelvis. She is 
scheduled for follow up in the ___ Multidsciplinary Pancreas 
Clinic on ___ with a CT scan scheduled prior to this 
appointment. The Advanced Endoscopy team will arrange for her to 
have repeat ERCP for stent pull and re-evaluation in 
approximately 4 weeks.

# Diarrhea
# Possible C. diff infection: nonsevere
She had diarrhea on presentation and we sent off stool 
infectious studies. Stool C. diff PCR returned positive, and she 
was started on PO vancomycin though our overall suspicion for 
active C. diff infection was low. C. diff toxin assay was still 
pending at the time of discharge. Other stool infectious studies 
have been negative thus far. She was having only minimal 
diarrhea on the day of discharge.

# Elevated lipase: present on admission; not clinically acting 
like acute pancreatitis; tolerating PO without pain, nausea, or 
vomiting on day of discharge

# Thrombocytopenia: 
# ITP
Known hx of ITP, baseline PLT usually around 130 she says for 
past ___ years, PLT 125 on admission. 
-no evidence of flare of the ITP during this hospitalization

# Right anteromedial shin subcutaneous lesions: small bump on 
right anteromedial shin does not appear infected or particularly 
concerning on its own; has been evaluated by PCP and ___ as 
outpatient
-exam has not changed since admission, no clinical concern for 
infection, suspect a lipoma or other benign soft-tissue mass; 
but ultimately will defer to her outpatient work-up (is planning 
to follow up with same surgeon as outpatient)
.
.
.
.
Time in care: >60 minutes in discharge-related activities today.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY 

 
Discharge Medications:
1.  vancomycin 125 mg oral QID Duration: 8 Days 
RX *vancomycin 125 mg 1 capsule(s) by mouth four times a day 
Disp #*32 Capsule Refills:*0 
2.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -400 unit oral DAILY  
3.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatic mass
Jaundice due to biliary obstruction
Diarrhea: possible non-severe C. diff infection
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms ___,

You were admitted to the hospital because of abnormal laboratory 
results. Imaging studies revealed a mass in the pancreas that 
was causing an obstruction of your bile ducts, resulting in 
jaundiced eyes, pale stools, dark urine, and the abnormal 
laboratory results.  You underwent a procedure called an ERCP, 
in which the doctors were ___ to place a stent in your bile 
duct to open it up and allow it to drain (resolving the 
obstruction). They also sent brushings from your bile duct to 
the pathology lab to try to determine the cause of the mass in 
your pancreas.  The results of those brushings (called 
"cytology") are still pending at this time.  Your next step in 
care is to follow up in the ___ Pancreas Clinic, where a team 
of specialists will review all of the available information with 
you and come up with the next steps in your treatment plan.  You 
have a CT scan scheduled on the same day, but prior to the 
Pancreas Clinic appointment. Please see below for details of 
your CT scan and appointment

You had been having loose stools when you presented to the 
hospital, so we performed some studies to look for infectious 
causes of diarrhea.  One test returned positive for C. diff 
infection, so you were started on an oral antibiotic 
("vancomycin") to treat this infection.  However, the 
confirmatory test is still pending at this time. If it returns 
negative, we will call you and let you know that you should stop 
taking the vancomycin. If it returns positive, you will need to 
take the vancomycin 4 times per day for another 8 days in order 
to eliminate the infection (total treatment course of 10 days).

It was a pleasure taking care of you while you were here at 
___ and we wish you the best.

Sincerely,
Dr. ___ your ___ Medicine team
 
Followup Instructions:
___